* /home/gk778007/esim-workspace/frequency_divider/frequency_divider.cir

.include smttrigger21.sub
.include 3stcmringosci13.sub
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
* u9  ? ? gaurav_kumar
x1 net-_x1-pad1_ output0 output1 output2 3stcmringosci13
v1 net-_x1-pad1_ gnd  dc 3.3
* u2  output2 plot_v1
x2 output0 net-_x1-pad1_ clk smttrigger21
* u1  output0 plot_v1
* u3  output1 plot_v1
* u5  clk plot_v1
* s c m o d e
* u6  clk net-_u4-pad1_ adc_bridge_1
* u7  net-_u4-pad2_ clk_output dac_bridge_1
* u8  clk_output plot_v1
* u4  net-_u4-pad1_ net-_u4-pad2_ gaurav_kumar
a1 [? ] [? ] u9
a2 [clk ] [net-_u4-pad1_ ] u6
a3 [net-_u4-pad2_ ] [clk_output ] u7
a4 [net-_u4-pad1_ ] [net-_u4-pad2_ ] u4
* Schematic Name:                             gaurav_kumar, NgSpice Name: gaurav_kumar
.model u9 gaurav_kumar(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u6 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             gaurav_kumar, NgSpice Name: gaurav_kumar
.model u4 gaurav_kumar(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 10e-09 1.5e-06 1e-06

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(output2)
plot v(output0)
plot v(output1)
plot v(clk)
plot v(clk_output)
.endc
.end
